US06140317
4-(6-Chloro-2,3-dihydroindol-1-yl)-6-(4-nitro-phenyl)-7H-pyrrolo[2,3-d]-pyrimidine
This product is prepared in a manner analogous to that described in Example 6 from 4-chloro-6-(4-nitro-phenyl)-7H-pyrrolo[2,3-d]pyrimidine and 6-chloro-2,3-dihydroindole (1.1 equivalents).

reactant | 4-chloro-6-(4-nitro-phenyl)-7H-pyrrolo[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C12H7ClN4O2
reactant | 6-chloro-2,3-dihydroindole | 1.1 equivalents | ClC1=CC=C2CCNC2=C1 | C8H8ClN
product | 4-(6-Chloro-2,3-dihydroindol-1-yl)-6-(4-nitro-phenyl)-7H-pyrrolo[2,3-d]-pyrimidine | ClC1=CC=C2CCN(C2=C1)C=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C20H14ClN5O2
